US05604229
1,3-Diacetoxy-2-octadecyl-2-(N-pentanoylamino)propane (400 mg) was dissolved in 30 ml of dry ether and 150 mg of lithium aluminum hydride was added thereto under ice-cooling. The mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated and 20 ml of dry tetrahydrofuran was added thereto. Under ice-cooling, 0.15 ml of water, 0.15 ml of a 15% aqueous sodium hydroxide solution and 0.45 ml of water were added in order and the reaction mixture was filtered. The filtrate was concentrated and purified by silica gel column chromatography using chloroform-methanol-acetic acid (19:1:0.1→10:1:0.05) as an eluent to give 153 mg of colorless, powdery 2-octadecyl-2-(N-pentylamino)-1,3-propanediol.

reactant | 1,3-Diacetoxy-2-octadecyl-2-(N-pentanoylamino)propane | 400 mg | C(C)(=O)OCC(COC(C)=O)(NC(CCCC)=O)CCCCCCCCCCCCCCCCCC | C30H57NO5
reactant | lithium aluminum hydride | 150 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 30 ml | CCOCC | C4H10O
product | 2-octadecyl-2-(N-pentylamino)-1,3-propanediol | C(CCCCCCCCCCCCCCCCC)C(CO)(CO)NCCCCC | C26H55NO2
